US04889858
To a solution of 1.3 g of sodium metal in 100 ml of ethanol are added 6.3 g of 3-fluorophenol and 13 g of ethyl 3-fluoro-2-bromomethylbenzoate and the mixture is refluxed with heating for 8 hours. After cooling, 300 ml of water is added and the mixture is extracted with toluene. After the extract is washed with water and a saturated saline solution and dried over magnesium sulfate, the solvent is distilled off under reduced pressure. The residue is subjected to silica-gel chromatography and eluted with toluene to give 13 g of ethyl 3-fluoro-2-[(3-fluorophenyl oxy)methyl]benzoate (oil). Mass spectrum m/z: 292(M+).

reactant | sodium | 1.3 g | [Na] | Na
reactant | 3-fluorophenol | 6.3 g | FC=1C=C(C=CC1)O | C6H5FO
reactant | ethyl 3-fluoro-2-bromomethylbenzoate | 13 g | FC=1C(=C(C(=O)OCC)C=CC1)CBr | C10H10BrFO2
reactant | water | 300 ml | O | H2O
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | ethyl 3-fluoro-2-[(3-fluorophenyl oxy)methyl]benzoate | 13 g | FC=1C(=C(C(=O)OCC)C=CC1)COC1=CC(=CC=C1)F | C16H14F2O3
